US05149699
Ethyl 3-(2-Methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)propionate
To a solution of NaOEt (0.026 mol) in EtOH (prepared from 0.60 g of Na and 30 mL of EtOH) was added diethyl trifluoroacetylglutarate (3.70 g, 0.013 mol) and acetamidine hydrochloride (1.23 g, 0.013 mol). The reaction mixture was heated under reflux for 18 h, concentrated, and taken up in water. The mixture was acidified to pH 4 with 2N HCl and extracted with CH2Cl2. The extracts were dried (MgSO4) and concentrated to give a yellow solid. Trituration with hexane gave 0.87 g of product as a white solid.

reactant | NaOEt | 0.026 mol | CC[O-].[Na+]
reactant | diethyl trifluoroacetylglutarate | 0.013 mol, 3.70 g | FC(C(=O)C(C(=O)OCC)CCC(=O)OCC)(F)F | C11H15F3O5
reactant | acetamidine hydrochloride | 0.013 mol, 1.23 g | Cl.C(C)(=N)N
reactant | hexane | CCCCCC | C6H14
solvent | EtOH | 30 mL, 0.60 g | CCO | C2H6O
product | Ethyl 3-(2-Methyl-6-trifluoromethyl-3H-pyrimidin-4-on-5-yl)propionate | 0.87 g | CC1=NC(=C(C(N1)=O)CCC(=O)OCC)C(F)(F)F | C11H13F3N2O3
